US04293330
To a solution of 114 g of o-amino-N,N-diethylbenzenesulfonamide in a mixture of 400 ml of concentrated hydrochloric acid and 100 ml of glacial acetic acid was added a solution of 50 g of sodium nitrite in 130 ml of water at -5° to 0°. The solution was stirred at 0° for 15 minutes then poured into a mixture of 14 g of cuprous chloride and 100 ml of liquid sulfur dioxide in 550 ml of glacial acetic acid at 0°-5°. This mixture was stirred at 0° for 15 minutes then at room temperature for 3 hours before pouring into three liters of ice water. The crude suflonyl chloride was filtered off and washed with water. It was then dissolved in 1 l of ethyl ether, washed with water and dried over magnesium sulfate. To this ether solution was added 20 ml of liquid anhydrous ammonia at 5°-15°. After stirring overnight at room temperature the solid was filtered off, washed with water, ethanol and then 1-chlorobutane, Oven drying at 60° gave 91.8 g N,N-diethyl-1,2-benzenedisulfonamide, m.p. 156°-9°.

reactant | o-amino-N,N-diethylbenzenesulfonamide | 114 g | NC1=C(C=CC=C1)S(=O)(=O)N(CC)CC | C10H16N2O2S
reactant | sodium nitrite | 50 g | N(=O)[O-].[Na+]
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | hydrochloric acid | 400 ml | Cl | ClH
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | 130 ml | O | H2O
solvent | acetic acid | 550 ml | C(C)(=O)O | C2H4O2
product | N,N-diethyl-1,2-benzenedisulfonamide | 91.8 g | C(C)N(S(=O)(=O)C=1C(=CC=CC1)S(=O)(=O)N)CC | C10H16N2O4S2
